US06403595B1
4-(5-Chlorobenzofuran-2-sulfonyl)-1-(4-cyanobenzyl)-2-piperazinone
A mixture of 4-chloromethylsulfonyl-1-(4-cyanobenzyl)-2-piperazinone (3.20 g), 5-chlorosalicylaldehyde (2.29 g), potassium carbonate (1.48 g), potassium iodide (1.62 g) and DMF (80 ml) was stirred at 80° C. for 2 days. The reaction solution was concentrated under reduced pressure, and to the residue was added ethyl acetate. The mixture was washed with water and saturated brine, dried (MgSO4) and concentrated, and the residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:1) to give colorless crystals of the title compound (384 mg).

reactant | 4-chloromethylsulfonyl-1-(4-cyanobenzyl)-2-piperazinone | 3.20 g | ClCS(=O)(=O)N1CC(N(CC1)CC1=CC=C(C=C1)C#N)=O | C13H14ClN3O3S
reactant | 5-chlorosalicylaldehyde | 2.29 g | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
reactant | potassium carbonate | 1.48 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.62 g | [I-].[K+]
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 4-(5-Chlorobenzofuran-2-sulfonyl)-1-(4-cyanobenzyl)-2-piperazinone | 384 mg | ClC=1C=CC2=C(C=C(O2)S(=O)(=O)N2CC(N(CC2)CC2=CC=C(C=C2)C#N)=O)C1 | C20H16ClN3O4S
